US05880121
3-(4-Benzyl-1-piperazinyl)4,5-dihydronaphth[1,2-c]isoxazole
A stirred mixture of 3-chloro-4,5-dihydronaphth[1,2-c]isoxazole (2.0 g, 9.75 mmol), 1-benzylpiperazine (17 ml, 97.5 mmol) and K2CO3 (2.7 g, 19.5 mmol) in 18 ml of N-methylpyrrolidinone under N2 was lowered into an oil bath preheated to 150° C. The mixture was heated while stirring under N2 for 2 hours. At that time, TLC (CH2Cl2) showed no remaining starting material. The mixture was removed from the heating bath, allowed to cool to room temperature and extracted with heptane. The organic phase was dried over MgSO4, filtered and concentrated in vacuo to obtain a crude solid. The solid was collected, titrated with Et2O, recrystallized from Et2O and dried in vacuo (0.1 mm) at 85° C. to provide pure product, mp of 164°-166° C., homogeneous by TLC [silica, 1:1 EtOAc, Rf=0.80]. The IR (CHCl3), NMR (CDCl3) and Mass Spectrum (M+ =345, EI, 70 eV) were consistent with the structure. The yield was 1.219 g (3.53 mmol, 36.24%).

reactant | 3-chloro-4,5-dihydronaphth[1,2-c]isoxazole | 9.75 mmol, 2.0 g | ClC1=C2C(=NO1)C1=CC=CC=C1CC2 | C11H8ClNO
reactant | 1-benzylpiperazine | 97.5 mmol, 17 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | K2CO3 | 19.5 mmol, 2.7 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | N-methylpyrrolidinone | 18 ml | CN1C(CCC1)=O | C5H9NO
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(4-Benzyl-1-piperazinyl)4,5-dihydronaphth[1,2-c]isoxazole | C(C1=CC=CC=C1)N1CCN(CC1)C1=C2C(=NO1)C1=CC=CC=C1CC2 | C22H23N3O
